US08012976B2
A mixture of isophthalaldehyde (21.44 g, 160 mmol), ammonium chloride (0.34 g, 6.38 mmol) in anhydrous ethanol (23.2 g, 480 mmol) was cooled to 0° C., then triethyl orthoformate was added drop-wise. After the addition, the mixture was warmed to 40° C. and stirred for two days. The mixture was filtered and the filtrate was concentrated to give crude product. The crude product was purified by column chromatography (silica gel, petroleum ether/ethyl acetate=200:1 to 100:1) to give 3-(diethoxymethyl)benzaldehyde (25.4 g, yield 76%) as a colorless oil. 1H-NMR (400 MHz, CDCl3) δ (ppm): 1.23-1.27 (m, 6H), 3.53-3.67 (m, 4H), 5.58 (s, 1H), 7.52-7.56 (t, J=7.6 Hz, 1H), 7.74-7.77 (dd, J1=7.6 Hz, J2=3.6 Hz, 1H), 8.00 (s, 1H), 10.04 (s, 1H); LC-MS (ESI) m/z: 209 (M+1)+.

reactant | isophthalaldehyde | 160 mmol, 21.44 g | C(C1=CC(C=O)=CC=C1)=O | C8H6O2
reactant | ethanol | 480 mmol, 23.2 g | C(C)O | C2H6O
reactant | triethyl orthoformate | C(OCC)(OCC)OCC | C7H16O3
catalyst | ammonium chloride | 6.38 mmol, 0.34 g | [Cl-].[NH4+]
product | 3-(diethoxymethyl)benzaldehyde | 25.4 g, yield 76% | C(C)OC(C=1C=C(C=O)C=CC1)OCC | C12H16O3
